US08258338B2
(S)-3-methylamino-1-thiophen-2-yl-propan-1-ol p-toluenesulfonate
A mixture of (S)-3-methylamino-1-thiophen-2-yl-propan-1-ol (5.0 g, 29.2 mmol), methylene chloride (50 mL), p-toluenesulfonic acid hydrate (5.55 g, 29.2 mmol) and methanol (20 mL) is stirred 1 h at 25° C., then concentrated to dryness. The residue (10.8 g) which solidifies after a few hours is finally recrystallised from butanol (30 mL) affording a white powder (6.0 g, 60%); 1H-NMR (DMSO-d6, 400 MHz): 8.1 (1H, s, broad), 7.5 (2H, dm), 7.42 (1H, dd), 7.1 (2H, dm), 7.0 (2H, m), 4.92 (1H, dd), 2.97 (2H, m, symm.), 2.57 (3H, s), 2.28 (3H, s), 2.0 (2H, m); 13C-NMR (DMSO-d6, 100 MHz): 149.3, 145.5, 137.6, 128.0, 126.6, 125.4, 124.4, 123.0, 66.1, 45.8, 35.1, 32.7, 20.7.

reactant | (S)-3-methylamino-1-thiophen-2-yl-propan-1-ol | 29.2 mmol, 5.0 g | CNCC[C@H](O)C=1SC=CC1 | C8H13NOS
reactant | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
reactant | p-toluenesulfonic acid hydrate | 29.2 mmol, 5.55 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 20 mL | CO | CH4O
product | (S)-3-methylamino-1-thiophen-2-yl-propan-1-ol p-toluenesulfonate | 6.0 g, 60% | C1(=CC=C(C=C1)S(=O)(=O)O[C@@H](CCNC)C=1SC=CC1)C | C15H19NO3S2
